US06159902
A solution of 1-(3,5-difluorophenyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-ol (0.96 g) in dichloromethane was added to a stirred mixture of pyridinium chlorochromate (0.83 g) and powdered molecular sieve (4A) in dichloromethane at 20° C. After 18 hours, ether and charcoal were added, the mixture filtered through hyflo and evaporated to give 1-(3,5-difluorophenyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-one (0.59 g) as a beige solid, m.p. 156.8-157.8° C.

reactant | 1-(3,5-difluorophenyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-ol | 0.96 g | FC=1C=C(C=C(C1)F)C(C(C)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C)O | C21H21F2NO3
reactant | pyridinium chlorochromate | 0.83 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
reactant | charcoal | C | CH4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,5-difluorophenyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-one | 0.59 g | FC=1C=C(C=C(C1)F)C(C(C)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C)=O | C21H19F2NO3
